US05239083
4-{2-[3-(1-benzhydrylindol-5-yl)isocrotonoylamino]phenylthio}butyric acid (Compound 51)
0.37 g of amorphous compound 51 was obtained in a similar manner to those described in the Examples 1 and 2 using 1.30 g of ethyl 4-(2-aminophenylthio)butyrate and 1.0 g of 3-(1-benzhydrylindol-5-yl)isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenylthio)butyrate | 1.30 g | NC1=C(C=CC=C1)SCCCC(=O)OCC | C12H17NO2S
reactant | 3-(1-benzhydrylindol-5-yl)isocrotonic acid | 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C25H21NO2
product | 4-{2-[3-(1-benzhydrylindol-5-yl)isocrotonoylamino]phenylthio}butyric acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(C=CC=C1)SCCCC(=O)O)/C | C35H32N2O3S
